US07521457B2
e) 7-dibenzylamino-2-(2-fluoro-ethyl)-3,3-dimethyl-2,3-dihydro-isoindol-1-one
67 mg (0.188 mmol) 7-dibenzylamino-3,3-dimethyl-2,3-dihydro-isoindol-1-one are dissolved in 1 ml (7.877 mmol) 1-bromo-2-fluoroethane and combined with 52 mg (0.376 mmol) sodium hydride. After 4 h stirring at ambient temperature the mixture is diluted with ethyl acetate and extracted three times with 1 M hydrochloric acid. The combined organic phases are dried and the solvent is eliminated in vacuo.

reactant | 7-dibenzylamino-3,3-dimethyl-2,3-dihydro-isoindol-1-one | 0.188 mmol, 67 mg | C(C1=CC=CC=C1)N(C=1C=CC=C2C(NC(C12)=O)(C)C)CC1=CC=CC=C1 | C24H24N2O
reactant | 1-bromo-2-fluoroethane | 7.877 mmol, 1 ml | BrCCF | C2H4BrF
reactant | sodium hydride | 0.376 mmol, 52 mg | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-dibenzylamino-2-(2-fluoro-ethyl)-3,3-dimethyl-2,3-dihydro-isoindol-1-one | C(C1=CC=CC=C1)N(C=1C=CC=C2C(N(C(C12)=O)CCF)(C)C)CC1=CC=CC=C1 | C26H27FN2O
